US06211225B1
2,3-Methylenedioxyphenyl Trifluoromethane Sulfonate
Pyridine (0.69 ml, 0.0086 mol) was added to a solution of 2,3-methylenedioxyphenol (0.6 g, 0.0043 mol) in CH2Cl2 (100 ml) at 0° C. and the resulting mixture was stirred at 0° C. for 15 minutes. Triflic anhydride (0.86 ml, 0.0043 mol) was added at 0° C. and the solution was allowed to warm to room temperature and stirred overnight. The crude reaction mixture was partitioned between CH2Cl2/sat.Na2S2O5 and the organic phase was washed with water (2x 250 ml), dried over MgSO4, and concentrated under reduced pressure to give the desired product as a yellow oil (0.9 g, 82% yield).

reactant | Pyridine | 0.0086 mol, 0.69 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,3-methylenedioxyphenol | 0.0043 mol, 0.6 g | C1OC2=C(C=CC=C2O1)O | C7H6O3
reactant | Triflic anhydride | 0.0043 mol, 0.86 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 2,3-Methylenedioxyphenyl Trifluoromethane Sulfonate | 0.9 g, 82% yield | FC(S(=O)(=O)OC1=C2C(=CC=C1)OCO2)(F)F | C8H5F3O5S
